US09388189B2
(S)-2-(1-((6-Amino-5-(4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.10 mol) was treated with (4-hydroxyphenyl)boronic acid (21 mg, 0.15 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (14 mg, 0.02 mol) and sodium carbonate (2M, 231 μl, 0.46 mol) according to the method described in Example 3 to give 5 mg (11% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.10 mol, 50 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
reactant | (4-hydroxyphenyl)boronic acid | 0.15 mmol, 21 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | sodium carbonate | 0.46 mol, 2M, 231 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(4-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 5 mg, 11% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC=C(C=C2)O | C25H23N7O2
